### PR TITLE
Add Erdős Problem 542 (sets with pairwise lcm exceeding n), link the formal proof

### LINKED ISSUE #6315: Erdős Problem 542
### What is the Erdős problem?

https://www.erdosproblems.com/542

Is it true that if $A\subseteq\{1,\ldots,n\}$ is a set such that $[a,b]>n$ for all $a\neq b$, where $[a,b]$ is the least common multiple, then $\sum_{a\in A}\frac{1}{a}\leq \frac{31}{30}$? Is it true that there must be $\gg n$ many $m\leq n$ which do not divide any $a\in A$?

Status: resolved by Schinzel–Szekeres [ScSz59] (yes / no). A formal proof exists in plby/lean-proofs (`Erdos542.erdos_542`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6315.

### What changed
Adds `FormalConjectures/ErdosProblems/542.lean` with `IsLcmFree n A` (`A ⊆ [1, n]`, pairwise `lcm > n`) and `uncovered n A` (the `m ≤ n` divisible by no element of `A`):
- `erdos_542.parts.i` (`answer(True)`): `∑ 1/a ≤ 31/30`; `variants.sharp`: attained by `{2, 3, 5}`.
- `erdos_542.parts.ii` (`answer(False)`): there need not be `≫ n` uncovered integers.
- `variants.schinzel_szekeres`: for every `ε, δ > 0` there are examples with `≤ δ n` uncovered integers and reciprocal sum `> 1 - ε`.

These four are linked to plby/lean-proofs `Erdos542.erdos_542` (Codex and GPT-5.6 Sol; 5 Mathlib-only files).
- Literature variants (sorry'd): Schinzel–Szekeres' `n / (log n)^c` examples, Chen's bound for `n > 172509`; open: Erdős' `1 + o(1)` speculation and the "only `{2,3,5}` and `{3,4,5,7,11}` exceed `1`" conjecture.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos542.erdos_542` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms:

<details>
<summary>Bridge</summary>

```lean
open Filter Real

namespace Bridge542

lemma isLcmFree_iff (n : ℕ) (A : Finset ℕ) :
    Erdos542.IsLcmFree n A ↔ Erdos542Plby.PairwiseLCMExceeds n A := by
  simp only [Erdos542.IsLcmFree, Erdos542Plby.PairwiseLCMExceeds, Finset.subset_iff,
    Finset.mem_Icc, Set.Pairwise, Finset.mem_coe]

lemma uncovered_eq (n : ℕ) (A : Finset ℕ) :
    Erdos542.uncovered n A = Erdos542Plby.uncovered n A := rfl

theorem parts_i : type_of% Erdos542.erdos_542.parts.i := by
  show True ↔ _
  simp only [true_iff, isLcmFree_iff]
  exact Erdos542Plby.erdos_542.1

theorem sharp : type_of% Erdos542.erdos_542.variants.sharp := by
  rw [isLcmFree_iff]
  exact Erdos542Plby.erdos_542.2.1

theorem parts_ii : type_of% Erdos542.erdos_542.parts.ii := by
  show False ↔ _
  simp only [false_iff, isLcmFree_iff, uncovered_eq]
  have := Erdos542Plby.erdos_542.2.2.2.2.2
  simpa [gt_iff_lt] using this

theorem schinzel_szekeres : type_of% Erdos542.erdos_542.variants.schinzel_szekeres := by
  intro ε hε δ hδ
  obtain ⟨-, -, hfree, htend, hsum, -⟩ := Erdos542Plby.erdos_542
  have h1 := (htend.eventually (gt_mem_nhds hδ)).and (hsum ε hε)
  obtain ⟨t, ht1, ht2⟩ := h1.exists
  refine ⟨_, _, (isLcmFree_iff _ _).2 (hfree t), ?_, ht2⟩
  rw [uncovered_eq]
  have hpos : (0 : ℝ) < Erdos542Plby.constructionAmbient t := by
    unfold Erdos542Plby.constructionAmbient; positivity
  rw [div_lt_iff₀ hpos] at ht1
  exact ht1.le

#print axioms Erdos542Plby.erdos_542
#print axioms parts_i
#print axioms sharp
#print axioms parts_ii
#print axioms schinzel_szekeres

end Bridge542
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«542»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/542.lean [hunk 1]
```diff
@@ -0,0 +1,136 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/542.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
Thanks!
